US05079260
A solution of 2-[(2-methoxyfluoren-9-yl)ethyl]-1,3-dioxolane (3.1 g, 10.0 mmol) in acetone (100 mL) at 0° C. was charged with Jone's reagent (90 mL) (the reagent was made by dissolving 16 g of CrO and 16 ml of H2SO4 (conc.) in 100 ml of water). The reaction mixture was stirred overnight at room temperature. The reaction was monitored by TLC (silica, 25% EtOAc in hexane). The acetone was evaporated, the residue was diluted with water (100 mL). The product was extracted into EtOAc and the organic layer was washed thoroughly with water (x6), until aqueous washings were clear, then the product was extracted into 1N NaOH solution (3×50 mL), the water was washed again with ethyl acetate (1×30 mL) and acidified to pH=1. The oil formed was extracted with ethyl acetate. The ethyl acetate solution was washed with water, brine, dried over magnesium sulfate and evaporated. The residue was dissolved in 25% ethyl acetate/hexane mixture and the solution was filtered through a layer of a coarse silica gel. Evaporation of the filtrate afforded 1.8 g (67.0%) of the 3-(2-methoxyfluoren-9-yl)propionic acid.

reactant | 2-[(2-methoxyfluoren-9-yl)ethyl]-1,3-dioxolane | 10.0 mmol, 3.1 g | COC1=CC=2C(C3=CC=CC=C3C2C=C1)CCC1OCCO1 | C19H20O3
reactant | H2SO4 | 16 ml | OS(=O)(=O)O | H2O4S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 3-(2-methoxyfluoren-9-yl)propionic acid | 1.8 g, 67.0% | COC1=CC=2C(C3=CC=CC=C3C2C=C1)CCC(=O)O | C17H16O3
